US08193378B2
A solution of NaH (105.63 mg) in DMF (5.5 mL) was cooled to 0° C., and methyl 2-{[tert-butyl(dimethyl)silyl]oxy}-4-[(diethoxyphosphoryl)methyl]benzoate (550 mg) was added thereto. The reaction mixture was warmed to 25° C., then stirred for 1 hour, and cooled to 0° C. again, and 2-methoxy-4-propylbenzaldehyde (235.34 mg) was added thereto. The reaction mixture was warmed to 25° C. and then stirred for 15 hours. To the reaction liquid was added a saturated aqueous NH4Cl solution (50 mL), followed by extraction with EtOAc (50 mL) three times. The organic layer was washed with brine, dried over MgSO4, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (automatic purification device, hexane:EtOAc=100:0 to 70:30) to obtain methyl 2-hydroxy-4-[(E)-2-(2-methoxy-4-propylphenyl)vinyl]benzoate (304.2 mg) as a white solid.

reactant | NaH | 105.63 mg | [H-].[Na+]
reactant | methyl 2-{[tert-butyl(dimethyl)silyl]oxy}-4-[(diethoxyphosphoryl)methyl]benzoate | 550 mg | [Si](C)(C)(C(C)(C)C)OC1=C(C(=O)OC)C=CC(=C1)CP(=O)(OCC)OCC | C19H33O6PSi
reactant | 2-methoxy-4-propylbenzaldehyde | 235.34 mg | COC1=C(C=O)C=CC(=C1)CCC | C11H14O2
reactant | NH4Cl | 50 mL | [NH4+].[Cl-]
solvent | DMF | 5.5 mL | CN(C)C=O | C3H7NO
product | methyl 2-hydroxy-4-[(E)-2-(2-methoxy-4-propylphenyl)vinyl]benzoate | 304.2 mg | OC1=C(C(=O)OC)C=CC(=C1)\C=C\C1=C(C=C(C=C1)CCC)OC | C20H22O4
